US08431713B2
Step H: Preparation of tert-butyl 4-(chloro(methylsulfonyloxyimino)methyl)piperidine-1-carboxylate:
tert-Butyl 4-(chloro(hydroxyimino)methyl)piperidine-1-carboxylate (2.3 g, 8.75 mmol) and methanesulfonyl chloride (0.68 mL, 8.75 mmol) were suspended in diethyl ether (200 mL). Triethylamine (1.22 mL, 8.75 mmol) was added and the reaction stirred at ambient temperature until consumption of starting material. The mixture was filtered and the filtrate was concentrated. The residue was purified by flash chromatography (using dichloromethane) to afford the title compound (1.6 g, 53% yield) as a clear oil.

reactant | tert-Butyl 4-(chloro(hydroxyimino)methyl)piperidine-1-carboxylate | 8.75 mmol, 2.3 g | ClC(C1CCN(CC1)C(=O)OC(C)(C)C)=NO | C11H19ClN2O3
reactant | methanesulfonyl chloride | 8.75 mmol, 0.68 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Triethylamine | 8.75 mmol, 1.22 mL | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | tert-butyl 4-(chloro(methylsulfonyloxyimino)methyl)piperidine-1-carboxylate | 1.6 g, 53% yield | ClC(C1CCN(CC1)C(=O)OC(C)(C)C)=NOS(=O)(=O)C | C12H21ClN2O5S
